US05607939
3,4-Dihydrospiro[naphthalene-2(1H),2'-piperidin]-1-ol
In 20 ml of methanol was dissolved 0.80 g of 3,4-dihydrospiro[naphthalene-2(1H),2'-piperidin]-1-one. Then, 0.15 g of sodium borohydride was added portionwise. The mixture was stirred for 30 minutes, after which it was diluted with water and extracted with methylene chloride. The methylene chloride layer was dried over anhydrous sodium sulfate and filtered and the solvent was then distilled off. The solid residue was recrystallized from methylene chloride-ether to provide 0.25 g of white crystals.

reactant | 3,4-dihydrospiro[naphthalene-2(1H),2'-piperidin]-1-one | 0.80 g | N1C2(CCCC1)C(C1=CC=CC=C1CC2)=O | C14H17NO
reactant | sodium borohydride | 0.15 g | [BH4-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
solvent | water | O | H2O
product | 3,4-Dihydrospiro[naphthalene-2(1H),2'-piperidin]-1-ol | 0.25 g | N1C2(CCCC1)C(C1=CC=CC=C1CC2)O | C14H19NO
